US07217710B2
{2-Methyl-4-[1-methyl-6-(2-morpholin-4-yl-ethylamino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-phenyl}-carbamic acid tert-butyl ester (468 mg, 1 mmol) was dissolved in 10 mL of trifluoroacetic acid. After 1 hour the reaction mixture was evaporated, and methanol (10 mL) followed by water (10 mL) was added. The reaction mixture was then neutralised with 1 M NaOH to pH˜8 and product was filtered and dryed to give pure [3-(4-amino-3-methyl-phenyl)-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-yl]-(2-morpholin-4-yl-ethyl)-amine; LC/MS (m/e)=368.2 (MH+), Rt=1.02 min.

reactant | {2-Methyl-4-[1-methyl-6-(2-morpholin-4-yl-ethylamino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-phenyl}-carbamic acid tert-butyl ester | 1 mmol, 468 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=NN(C2=NC(=NC=C21)NCCN2CCOCC2)C)C)=O | C24H33N7O3
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | [3-(4-amino-3-methyl-phenyl)-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-yl]-(2-morpholin-4-yl-ethyl)-amine | NC1=C(C=C(C=C1)C1=NN(C2=NC(=NC=C21)NCCN2CCOCC2)C)C | C19H25N7O
